US07662830B2
2. 5-Chloro-6-piperazin-1-yl-nicotinic acid ethyl ester
Dissolve a solution of 4-(3-chloro-5-ethoxycarbonyl-pyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (7.78 g, 0.021 mol) in dioxane, and then add a solution of 4M HCl/dioxane (12 mL). Stir at 50° C. for 2 h, and then add additional 4M HCl/dioxane (5 mL) and stir for an additional 1 h. Cool the mixture in ice, collect the precipitate and wash with ether. Prepare the freebase by partitioning between EtOAc and 10% NaOH solution. Dry the organic layer (Na2SO4) and concentrate under reduced pressure to give the title compound.

reactant | 4-(3-chloro-5-ethoxycarbonyl-pyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.021 mol, 7.78 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1Cl)C(=O)OCC | C17H24ClN3O4
reactant | HCl dioxane | 4M, 12 mL | Cl.O1CCOCC1
reactant | HCl dioxane | 4M, 5 mL | Cl.O1CCOCC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Chloro-6-piperazin-1-yl-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCNCC1)=O | C12H16ClN3O2
